US07229998B2
(4-Methoxy-3-methylbenzyl)(triphenyl)phosphonium chloride
To a 250 ml round-bottom flask equipped with a magnetic stir-bar and N2 inlet was added 4-(Chloromethyl)-2-methylphenyl methyl ether (2.59 g, 15.18 mmoles, 1 eq), dry toluene (50 ml, 0.3M) and triphenylphosphine (3.98 g, 15.18 mmoles, 1 eq). The reaction mixture was refluxed overnight. After cooling to room temperature the solvent was removed in vacuo, the residue washed with hexanes and the solid/liquid mixture was filtered to yield 4.48 g (71%) of solid product.

reactant | 4-(Chloromethyl)-2-methylphenyl methyl ether | 15.18 mmoles, 2.59 g, 1 eq | COC1=C(C=C(C=C1)CCl)C | C9H11ClO
reactant | triphenylphosphine | 15.18 mmoles, 3.98 g, 1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 0.3M, 50 ml | C1(=CC=CC=C1)C | C7H8
product | (4-Methoxy-3-methylbenzyl)(triphenyl)phosphonium chloride | 4.48 g, 71% | [Cl-].COC1=C(C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C | InChI=1S/C27H26OP.ClH/c1-22-20-23(18-19-27(22)28-2)21-29(24-12-6-3-7-13-24,25-14-8-4-9-15-25)26-16-10-5-11-17-26;/h3-20H,21H2,1-2H3;1H/q+1;/p-1
